US07511144B2
(11-2): N-hydroxy-N-{2-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonyl]-1-(tetrahydrothiopyran-4-ylidenemethyl)ethyl}formamide (I-17)
A mixture of formic acid (3.0 mL) and acetic anhydride (0.4 mL) premixed for 30 minutes at 0° C. was added to a solution of 0.28 g (0.58 mmol) of N-{2-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonyl]-1-(tetrahydrothiopyran-4-ylidenemethyl)ethyl}hydroxylamine (III-17) in tetrahydrofuran (4 mL) at 0° C., and stirred for another 2 hours at room temperature. After the reaction was completed, the solvent was removed under a reduced pressure, and then subjected to azeotropic distillation with toluene. The resulting residue was dissolved in a mixed solution of methanol (1 mL) and chloroform (3 mL) and stirred for 1 hour at room temperature. Then, the solvent was removed under a reduced pressure, and the obtained residue was subjected to medium pressure column chromatography on silica gel (developing solvent; chloroform:methanol=30: 1) to obtain 0.1 g (yield 34%) of the title compound as a white crystal. Its physical properties are shown below.

reactant | formic acid | 3.0 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 0.4 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-{2-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonyl]-1-(tetrahydrothiopyran-4-ylidenemethyl)ethyl}hydroxylamine | 0.58 mmol, 0.28 g | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)CC(C=C1CCSCC1)NO | C25H28N2O4S2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | N-hydroxy-N-{2-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonyl]-1-(tetrahydrothiopyran-4-ylidenemethyl)ethyl}formamide | 0.1 g, yield 34% | ON(C=O)C(CS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C=C1CCSCC1 | C26H28N2O5S2
